US06723716B1
2-(2-t-Butyloxycarbonylaminoethylamino)-4-chloromethyl-1,3-thiazole
A solution of N-(2-t-butyloxycarbonylaminoethyl)thiourea (1.00 g, 4.54 mol) in ethanol (22 mL) was added 1,3-dichloroacetone (2.60 g, 20.47 mmol) at room temperature. After 2 hours the reaction mixture was concentrated under reduced pressure. The residue was triturated with ether and filtered to afford the solid precipitate of title product (1.40 g), which was used for next step without further purification. 1H NMR (CDCl3) δ 1.40 (s, 9H), 3.35 (m, 4H), 4.38 (s, 2H), 5.00 (br s, 1H), 6.40 (s, 1H).

reactant | N-(2-t-butyloxycarbonylaminoethyl)thiourea | 4.54 mol, 1.00 g | C(C)(C)(C)OC(=O)NCCNC(=S)N | C8H17N3O2S
reactant | 1,3-dichloroacetone | 20.47 mmol, 2.60 g | ClCC(=O)CCl | C3H4Cl2O
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | 2-(2-t-Butyloxycarbonylaminoethylamino)-4-chloromethyl-1,3-thiazole | 1.40 g | C(C)(C)(C)OC(=O)NCCNC=1SC=C(N1)CCl | C11H18ClN3O2S
